US04851424
8 g of o-fluorobenzylamine and 6.6 g of 2-isocyano-3-dimethylaminoacrylic acid methyl ester are dissolved in 66 ml of xylene and heated under reflux for 3 hours while stirring. After cooling to room temperature, the whole is diluted with ethyl acetate and extracted by shaking twice with 50 ml of 2N hydrochloric acid each time and then with water. The aqueous phases are washed twice with 50 ml of ethyl acetate each time. All the aqueous phases are combined, rendered alkaline with concentrated ammonia and then extracted by shaking three times with 100 ml of dichloromethane each time. The extracts are combined, washed twice with water, dried over magnesium sulphate and concentrated to dryness by evaporation. The residue is dissolved in ethyl acetate, filtered over silica gel, concentrated and caused to crystallise by the addition of diethyl ether. 1-(o-fluorobenzyl)-imidazole-4-carboxylic acid methyl ester having a melting point of 87°-89° is obtained.

reactant | o-fluorobenzylamine | 8 g | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | 2-isocyano-3-dimethylaminoacrylic acid methyl ester | 6.6 g | COC(C(=CN(C)C)[N+]#[C-])=O | C7H10N2O2
solvent | xylene | 66 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(o-fluorobenzyl)-imidazole-4-carboxylic acid methyl ester | COC(=O)C=1N=CN(C1)CC1=C(C=CC=C1)F | C12H11FN2O2
